US08404709B2
3-Acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one
4.00 g (14.79 mmol) of 3-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]pentane-2,4-dione and 1.63 g (14.79 mmol) of 4-aminopyridin-2(1H)-one [Searls, T., McLaughlin, L. W., Tetrahedron 55, 11985-11996 (1999)] are dissolved in 40 ml of isopropanol and heated at the reflux temperature under argon for 4 days. The mixture is then concentrated and the residue is recrystallized from methanol. 4.1 g (76% of theory) of the title compound are obtained as a yellow solid.

reactant | 3-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]pentane-2,4-dione | 14.79 mmol, 4.00 g | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(C)=O)C(C)=O | C16H14O4
reactant | 4-aminopyridin-2(1H)-one | 14.79 mmol, 1.63 g | NC1=CC(NC=C1)=O | C5H6N2O
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
product | 3-Acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one | C(C)(=O)C1=C(NC=2C=CNC(C2C1C=1C=CC=C2C(C=C(OC12)C)=O)=O)C | C21H18N2O4
